US07528138B2
5-Phenyl-3-pyridin-2-yl-6,7-dihydro-pyrazolo[1,5-a]pyrimidin-2-ylamine
6-Bromo-3-pyridin-2-yl-pyrazolo[1,5-a]pyrimidin-2-ylamine (0.52 g, 3.01 mmol) and 3-dimethylamino-1-phenyl-propan-1-one hydrochloride (0.64 g, 3.01 mmol) were suspended in dry DMF (10 mL). The mixture was heated at 160° C. for 3 hours with stirring. After allowing the reaction to cool down to room temperature, the mixture was poured into cold water. The resulting precipitate was filtered and dried to afford the title compound as a yellow solid (0.79 g, 93% yield). MS (ES+) 290. δH (DMSO-d6) 3.3 (2H, m), 4.1 (2H, m), 6.1 (2H, s), 7.2 (1H, m), 7.7 (4H, m), 7.9 (1H, t), 8.2 (1H, m), 8.4 (1H, d), 8.6 (1H, d).

reactant | 6-Bromo-3-pyridin-2-yl-pyrazolo[1,5-a]pyrimidin-2-ylamine | 3.01 mmol, 0.52 g | BrC=1C=NC=2N(C1)N=C(C2C2=NC=CC=C2)N | C11H8BrN5
reactant | 3-dimethylamino-1-phenyl-propan-1-one hydrochloride | 3.01 mmol, 0.64 g | Cl.CN(CCC(=O)C1=CC=CC=C1)C
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-Phenyl-3-pyridin-2-yl-6,7-dihydro-pyrazolo[1,5-a]pyrimidin-2-ylamine | 0.79 g, 93% yield | C1(=CC=CC=C1)C1=NC=2N(CC1)N=C(C2C2=NC=CC=C2)N | C17H15N5
